US06864396B2
A mixture of 109 grams of 2,5-bis(4-nonylbenzoyl)terephthalic acid 1500 mL of tetrahydrofuran, and 7.43 grams of 10% palladium on carbon (as a catayst)was heated at 65° C. for 17 hours in an atmosphere of hydrogen at 270 kPa. The reaction mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give 2,5-bis(4-nonylbenzyl)terephthalic acid.

reactant | 2,5-bis(4-nonylbenzoyl)terephthalic acid | 1500 mL, 109 grams | C(CCCCCCCC)C1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCCCCCCCC)=O)C=C1 | C40H50O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 7.43 grams | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,5-bis(4-nonylbenzyl)terephthalic acid | C(CCCCCCCC)C1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)CCCCCCCCC)C=C1 | C40H54O4
